US05663053
A mixture of 2,4,5-triphenylimidazole (4.13 g), ethyl 9-bromo-2,2-dimethylnonanoate (10.95 g), potassium carbonate (10 g) and 2-butanone was stirred at reflux for 48 hours. The mixture was filtered, solvent removed under reduced pressure and the residue was chromatographed on silica gel eluted with chloroform to give a clear oil which was dissolved in dimethyl sulphoxide (30 ml) and treated with potassinm 5 hydroxide (3 g). The mixture was stirred at 40° C. for 24 hours when the solvent was removed under reduced pressure. Water (50 ml ) was added, the pH of the solution was adjusted to 4 and the aqueous was extracted with chloroform (3×50 ml ). The chloroform extracts were dried over magnesium sulphate, filtered and the solvent removed to give a solid which was recrystallised from acetonitrile to give 9-(1,2,4-tri-phenylimidazolyl)-2,2-dimethylnonanoic acid as a white crystalline solid, m.p. 119°-120° C.; Found: C, 79.85; H, 7.64; N, 6.23% (C32H36N2O2); Requires: C, 79.96; H, 5.54; N, 5.82%

reactant | 2,4,5-triphenylimidazole | 4.13 g | C1(=CC=CC=C1)C=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H16N2
reactant | ethyl 9-bromo-2,2-dimethylnonanoate | 10.95 g | BrCCCCCCCC(C(=O)OCC)(C)C | C13H25BrO2
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxide | 3 g | [OH-]
solvent | dimethyl sulphoxide | 30 ml | CS(=O)C | C2H6OS
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 9-(1,2,4-tri-phenylimidazolyl)-2,2-dimethylnonanoic acid | C1(=CC=CC=C1)N1C(=NC(=C1CCCCCCCC(C(=O)O)(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C32H36N2O2
